US08252936B2
Preparation of 5-nitro-thiophene-3-carbonyl chloride
To a suspension of 5-nitro-thiophene-3-carboxylic acid (5.0 g, 29 mmol) in dichloromethane (60 ml) was added oxalyl chloride (2.93 ml, 35 mmol) at room temperature. The mixture was stirred for 30 minutes at room temperature then for 30 minutes at 50° C. The solvent was evaporated and the residue suspended in tetrahydrofuran (30 ml). The solution was used without purification in the next step.

reactant | 5-nitro-thiophene-3-carboxylic acid | 29 mmol, 5.0 g | [N+](=O)([O-])C1=CC(=CS1)C(=O)O | C5H3NO4S
reactant | oxalyl chloride | 35 mmol, 2.93 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 5-nitro-thiophene-3-carbonyl chloride | [N+](=O)([O-])C1=CC(=CS1)C(=O)Cl | C5H2ClNO3S
